US05958942
v) Synthesis of 4,5-dihydro-2-ethyl-4-[5-(trifluoro-methanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaace-naphthylene-dihydrochloride
In a mixture of 10 ml of ethanol and 1 ml of 12N HCl was dissolved 542 mg (1.34 mmol) of 4,5-dihydro-2-ethyl-4-(5-trifluoromethanesulfonamidopentan-1-yl)-3H-1,4,8b-triazaacenaphthylene. The solvent was distilled off under reduced pressure to leave 640 mg of the desired compound (100%, white amorphous substance).

reactant | 4,5-dihydro-2-ethyl-4-(5-trifluoromethanesulfonamidopentan-1-yl)-3H-1,4,8b-triazaacenaphthylene | 1.34 mmol, 542 mg | C(C)C=1N=C2C=CC=C3CN(CC1N23)CCCCCNS(=O)(=O)C(F)(F)F | C17H23F3N4O2S
reactant | HCl | 12N, 1 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4,5-dihydro-2-ethyl-4-[5-(trifluoro-methanesulfonamido)pentan-1-yl]-3H-1,4,8b-triazaace-naphthylene-dihydrochloride | 640 mg, 100% | Cl.Cl.C(C)C=1N=C2C=CC=C3CN(CC1N23)CCCCCNS(=O)(=O)C(F)(F)F | InChI=1S/C17H23F3N4O2S.2ClH/c1-2-14-15-12-23(11-13-7-6-8-16(22-14)24(13)15)10-5-3-4-9-21-27(25,26)17(18,19)20;;/h6-8,21H,2-5,9-12H2,1H3;2*1H
